US04548939
A mixture of 3.65 parts of 7-(2-chloroethyl)-3,7-dihydro-1,3-dimethyl-1H-purine-2,6-dione, 3 parts of 3-(4-piperidinyl)-1H-indol-5-ol, 4.25 parts of sodium carbonate, 0.1 parts and potassium iodide and 200 parts of 4-methyl-2-pentanone was stirred and refluxed overnight. The whole was filtered while hot and the filtrate was evaporated. The residue was suspended in 45 parts of trichloromethane and 2.4 parts of methanol. The product was filtered off, washed with 16 parts of methanol and dried, yielding 2.5 parts (43%) of 3,7-dihydro-7-[2-[4-(5-hydroxy-1H-indol-3-yl)-1-piperidinyl]ethyl]-1,3-dimethyl-1H-purine-2,6-dione; mp. 232.5° C. (compound 2).

reactant | 7-(2-chloroethyl)-3,7-dihydro-1,3-dimethyl-1H-purine-2,6-dione | ClCCN1C=NC=2N(C(N(C(C12)=O)C)=O)C | C9H11ClN4O2
reactant | 3-(4-piperidinyl)-1H-indol-5-ol | N1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C13H16N2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 3,7-dihydro-7-[2-[4-(5-hydroxy-1H-indol-3-yl)-1-piperidinyl]ethyl]-1,3-dimethyl-1H-purine-2,6-dione | 43% | OC=1C=C2C(=CNC2=CC1)C1CCN(CC1)CCN1C=NC=2N(C(N(C(C12)=O)C)=O)C | C22H26N6O3
